US04554351
(n) BOC-(D)-Ala-MeLeu-OH
32.45 g (79.92 m mol) BOC-(D)-Ala-MeLeu-Bzl in 800 ml ethanol containing 1.6 g 10% palladium/charcoal are debenzylated by hydrogenation for 2 hours at room temperature. After uptake of the calculated quantity of hydrogen the suspension is filtered through talc, the solvent evaporated off and the residue crystallised from hexane to yield the title compound with a rotation of [α]D25 =-36.7° (c=0.8 in chloroform).

reactant | BOC-(D)-Ala-MeLeu-Bzl | 32.45 g | N([C@H](C)C(=O)N([C@@H](CC(C)C)C(=O)CC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C22H34N2O4
reactant | ethanol | 800 ml, 1.6 g | C(C)O | C2H6O
product | BOC-(D)-Ala-MeLeu-OH | N([C@H](C)C(=O)N([C@@H](CC(C)C)C(=O)O)C)C(=O)OC(C)(C)C | C15H28N2O5
